US06143764
N-(2,6-Difluorophenyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea [263]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (50 mg) was dissolved in toluene (5 ml) with heat, 2,6-difluorophenyl isocyanate (104 mg) was added, and the admixture was refluxed with heat for 30 minutes. The separated crystals were filtered and then washed with toluene to obtain 57 mg of the title compound (yield: 74%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 50 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | 2,6-difluorophenyl isocyanate | 104 mg | FC1=C(C(=CC=C1)F)N=C=O | C7H3F2NO
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2,6-Difluorophenyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea | 57 mg, yield: 74% | FC1=C(C(=CC=C1)F)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C24H19F2N3O4
